US08222248B2
To a solution of 4-(tert-butyldimethylsilanyloxy)-2,6-dichlorobenzaldehyde (15.51 g, 55.9 mmol) in THF (80 mL) at −78° C. was added sec-butyllithium (41.14 mL, 57.6 mmol) dropwise over 25 min and the mixture was allowed to stir at −78° C. for 1.5 h. To the mostly yellow suspension was added DMF (6.47 mL, 83.9 mmol) and the yellow solution was allowed to stir at −78° C. for 5 h. To the reaction mixture was added MeOH (1 mL) and 1N HCl (60 mL) and allowed to warm to ambient temperature for 18 h. The brown solution was brought to pH 4, extracted with EtOAc, washed with water, brine, and dried with Na2SO4. A solid precipitated from the organic layer and was filtered and rinsed with DCM to give 2,6-dichloro-4-hydroxybenzaldehyde as white solid. MS (m/z) 191.0 (M+1); 1H NMR (DMSO-d6, 400 MHz) δ 11.45 (s, 1H), 10.24 (s, 1H), 6.93 (s, 2H).

reactant | 4-(tert-butyldimethylsilanyloxy)-2,6-dichlorobenzaldehyde | 55.9 mmol, 15.51 g | [Si](C)(C)(C(C)(C)C)OC1=CC(=C(C=O)C(=C1)Cl)Cl | C13H18Cl2O2Si
reactant | sec-butyllithium | 57.6 mmol, 41.14 mL | C(C)(CC)[Li]
reactant | DMF | 83.9 mmol, 6.47 mL | CN(C)C=O | C3H7NO
reactant | HCl | 1N, 60 mL | Cl | ClH
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | 2,6-dichloro-4-hydroxybenzaldehyde | ClC1=C(C=O)C(=CC(=C1)O)Cl | C7H4Cl2O2
